US04731374
(a) (4-(Phthalimido)-cyclohexanol
75.5 g (0.5 Mol) of 4-aminocyclohexanolhydrochloride and 74.0 g (0.5 Mol) of phthalic acid anhydride are mixed with 65 g (0.5 Mol) of ethyl-diisopropyl-amine and 1000 ml of toluene and boiled for 36 hours with a water separator. Then water is added, the toluene phase is separated off and the aqueous phase is extracted several times with chloroform. The organic phases are combined, dried and concentrated. The concentration residue is recrystallised from isopropanol.

reactant | 4-aminocyclohexanolhydrochloride | 0.5 Mol, 75.5 g | Cl.NC1CCC(CC1)O
reactant | phthalic acid anhydride | 0.5 Mol, 74.0 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | ethyl-diisopropyl-amine | 0.5 Mol, 65 g | C(C)N(C(C)C)C(C)C | C8H19N
reactant | toluene | 1000 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 4-(Phthalimido)-cyclohexanol | C1(C=2C(C(N1C1CCC(CC1)O)=O)=CC=CC2)=O | C14H15NO3
